US04419340
Preparation of PLA/cis-Pta2Cl2 /Cyclophosphamide/Doxorubicin Composites
To a dark orange solution of Doxorubicin (0.036 g), prepared from Doxorubicin hydrochloride as described in the previous experiment, in chloroform (100 ml) were added while stirring at 50° PLA (4.048 g), cis-Pta2Cl2 (0.495 g) and cyclophosphamide (0.381 g in 40 ml dichloromethane). The mixture was transferred to a 500 ml ball mill jar about one-third filled with pebbles, rotated overnight and worked up as reported in Example 1 to give two samples of average particle sizes of 250-425μ and 150-250μ.

reactant | Doxorubicin | 0.036 g | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC=3C2=C(C4=C(C3O)C(=O)C5=CC=CC(=C5C4=O)OC)O)(C(=O)CO)O)N)O | C27H29NO11
reactant | Doxorubicin hydrochloride | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC=3C2=C(C4=C(C3O)C(=O)C5=CC=CC(=C5C4=O)OC)O)(C(=O)CO)O)N)O.Cl
reactant | cyclophosphamide | 40 ml, 0.381 g | C1CNP(=O)(OC1)N(CCCl)CCCl | C7H15Cl2N2O2P
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | Cyclophosphamide Doxorubicin | C1CNP(=O)(OC1)N(CCCl)CCCl.C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC=3C2=C(C4=C(C3O)C(=O)C5=CC=CC(=C5C4=O)OC)O)(C(=O)CO)O)N)O | InChI=1S/C27H29NO11.C7H15Cl2N2O2P/c1-10-22(31)13(28)6-17(38-10)39-15-8-27(36,16(30)9-29)7-12-19(15)26(35)21-20(24(12)33)23(32)11-4-3-5-14(37-2)18(11)25(21)34;8-2-5-11(6-3-9)14(12)10-4-1-7-13-14/h3-5,10,13,15,17,22,29,31,33,35-36H,6-9,28H2,1-2H3;1-7H2,(H,10,12)/t10-,13-,15-,17-,22+,27-;/m0./s1
